US07858800B2
1) Production of 4-[1-(pyridin-3-yl)-1H-[1,2,3]-triazol-4-yl]-1,2,3,6-tetrahydropyridine
A 4N solution of hydrochloric acid in dioxane (3 ml) was added to 15 mg of tert-butyl 4-[5-methyl-1-(pyridine-3-yl)-1H-[1,2,3]triazol-4-yl]-1,2,3,6-tetrahydropyridine-1-carboxylate, the mixture was stirred at room temperature for 3 hours and the solvent was evaporated in vacuo to give 6 mg of the title compound as a white solid.

reactant | hydrochloric acid | Cl | ClH
reactant | tert-butyl 4-[5-methyl-1-(pyridine-3-yl)-1H-[1,2,3]triazol-4-yl]-1,2,3,6-tetrahydropyridine-1-carboxylate | 15 mg | CC1=C(N=NN1C=1C=NC=CC1)C=1CCN(CC1)C(=O)OC(C)(C)C | C18H23N5O2
solvent | dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 4-[1-(pyridin-3-yl)-1H-[1,2,3]-triazol-4-yl]-1,2,3,6-tetrahydropyridine | 6 mg | N1=CC(=CC=C1)N1N=NC(=C1)C=1CCNCC1 | C12H13N5
